US05093370
1,4-Bis(2-chloroethoxymethyl)benzene
To 5.0 g of p-xylylene dichloride was added 25 ml of 2-chloroethanol, and the mixture was refluxed for 24 hours. After the reaction, 2-chloroethanol was removed under reduce pressure at 100° C. The residue was applied to a silica gel column and eluted with hexane/chloroform (1:1) as eluent, and a relevant fraction was further purified by distillation to obtain 2.44 g of the title compound as a colorless liquid.

reactant | p-xylylene dichloride | 5.0 g | C1(=CC=C(C=C1)CCl)CCl | C8H8Cl2
reactant | 2-chloroethanol | 25 ml | ClCCO | C2H5ClO
product | 1,4-Bis(2-chloroethoxymethyl)benzene | 2.44 g | ClCCOCC1=CC=C(C=C1)COCCCl | C12H16Cl2O2
